US04175130
Ethyl 2-p-chlorophenyl-5-p-chlorophenoxy-4-oxazoleacetate
To a solution of 33.3 g of 2-p-chlorophenyl-5-p-chlorophenoxy-4-oxazoleacetic acid in 100 ml of dimethylformamide were added 40 ml of ethyl bromide and 40 ml of triethylamine. The mixture was stirred at room temperature for 40 minutes and then allowed to stand overnight. To the resulting mixture were added water and ethyl acetate and then the mixture was shaken. The organic layer was washed successively with water, diluted hydrochloric acid and water, then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was recrystallized from a mixture of n-hexane and ethyl acetate to give 34.3 g of the title compound as white crystals, melting at 70°-72° C.

reactant | 2-p-chlorophenyl-5-p-chlorophenoxy-4-oxazoleacetic acid | 33.3 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)OC1=CC=C(C=C1)Cl | C17H11Cl2NO4
reactant | ethyl bromide | 40 ml | C(C)Br | C2H5Br
reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-p-chlorophenyl-5-p-chlorophenoxy-4-oxazoleacetate | 34.3 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)OC1=CC=C(C=C1)Cl | C19H15Cl2NO4
